Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nephrolithiasis
 
Major Surgical or Invasive Procedure:
NONE during this admission

 
History of Present Illness:
___ year old male with history of uric stone formation presenting 
with an obstructing 4mm left distal ureteral stone with evidence 
of ___. His pain is well controlled at this time. ___ possibly 
explained by resorption of urine creatinine from calyceal 
rupture, however cannot definitively say at this time. We will 
plan to admit the patient for IV hydration and
observation. We will consider stent vs. ureteroscopy tomorrow if 
the patient feels unwell or his labs fail to improve.
 
Past Medical History:
Notable medical history includes FVL disease with history of
multiple DVTs. The patient takes coumadin daily with a goal INR 
1.8-2.5 per report. He stopped taking his coumadin yesterday 
when he noted blood in his urine. He is scheduled to stop taking 
his coumadin late this week anyways in preparation for a 
prostate biopsy with Dr. ___ week for elevated PSA. 
Additionally, the patient takes Kcitrate daily for his uric acid 
stone history 

Problems  (Last Verified ___ by ___, MD):
CROHN'S DISEASE                                                 
KIDNEY STONES                                                   
GOUT                                                            
FATTY LIVER                                                     
DEEP VENOUS THROMBOSIS                                          
DEEP VEIN THROMBOSIS                                            
DEEP VEIN THROMBOSIS                                            
CHRONIC PANCREATITIS 

     S/P ILEAL RESECTION   
Ureteroscopy at ___
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
gen: No acute distress, alert & oriented
HEENT: Extraocular movements intact, face symmetric
CHEST: Warm and well-perfused
BACK: Non-labored breathing, no CVA tenderness bilaterally
ABD: Soft, non-tender, non-distended, no guarding or rebound
EXT: Moves all extremities well
PSY: Appropriately interactive
 
Pertinent Results:
___ 06:50AM BLOOD WBC-7.6 RBC-4.72 Hgb-13.5* Hct-40.6 
MCV-86 MCH-28.6 MCHC-33.3 RDW-13.5 RDWSD-42.2 Plt ___
___ 01:52AM BLOOD WBC-10.1* RBC-5.24 Hgb-14.7 Hct-44.7 
MCV-85 MCH-28.1 MCHC-32.9 RDW-13.3 RDWSD-41.1 Plt ___
___ 01:52AM BLOOD Neuts-78.0* Lymphs-9.6* Monos-10.8 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-7.84* AbsLymp-0.97* 
AbsMono-1.09* AbsEos-0.09 AbsBaso-0.04
___ 06:50AM BLOOD Glucose-104* UreaN-19 Creat-1.9* Na-140 
K-4.4 Cl-105 HCO3-25 AnGap-10
___ 10:00AM BLOOD Glucose-100 UreaN-19 Creat-1.6* Na-140 
K-4.7 Cl-108 HCO3-22 AnGap-10
___ 01:52AM BLOOD Glucose-108* UreaN-20 Creat-1.4* Na-139 
K-4.4 Cl-104 HCO3-22 AnGap-13

___ 12:45 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
Mr. ___ was admitted for observation as stated and with 
improvement in pain and ___, was deferred for outpatient 
management.  At discharge on HD2, His pain was controlled with 
oral pain medications, he was tolerating regular diet, 
ambulating without assistance, and voiding without difficulty.  
Mr. ___ was explicitly advised to follow up as directed 
next ___ for a pre-arranged procedure and to continue 
holding his warfarin.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Potassium Citrate 10 mEq PO BID 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Cholestyramine 4 gm PO DAILY 
4. Warfarin 2 mg PO DAILY16 
5. Multivitamins 1 TAB PO DAILY 
6. Cyanocobalamin 25 mcg PO DAILY 
7. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
3.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg ONE capsule(s) by mouth at bedtime Disp 
#*30 Capsule Refills:*0 
4.  TraMADol 25 mg PO Q6H:PRN BREAKTHROUGH PAIN 
RX *tramadol 50 mg HALF tab by mouth Q6hrs Disp #*10 Tablet 
Refills:*0 
5.  Cholestyramine 4 gm PO DAILY  
6.  Cyanocobalamin 25 mcg PO DAILY  
7.  Fish Oil (Omega 3) 1000 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Potassium Citrate 10 mEq PO BID  
10.  Vitamin D 400 UNIT PO DAILY  
11. HELD- Warfarin 2 mg PO DAILY16  This medication was held. Do 
not restart Warfarin until cleared by Dr. ___ your 
procedure next ___.Outpatient Lab Work
Return to the lab on ___, for blood work. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
obstructing 4mm left distal ureteral stone
acute kidney injury (creat to 1.9)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month; this may be related to the passage of stone fragments or, 
if applicable to you, the indwelling ureteral stent. You may 
also experience some pain associated with spasm of your ureter.

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-Do not lift anything heavier than a phone book (10 pounds)

-You may continue to periodically see small amounts of blood in 
your urine—this, as noted above, is expected and will gradually 
improve—continue to drink plenty of fluids to flush out your 
urinary system

-Resume your pre-admission/home medications EXCEPT COUMADIN and 
as noted. 

-You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care doctor.  

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are over-the-counter medications that may 
be “health care spending account reimbursable.” 

-Docusate sodium (Colace) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated
 
Followup Instructions:
___